US06187805B1
c) 1-(Benzenesulphonyl)-4-(2-nitrovinyl)-1H-indole
To a solution of 1- benzenesulphonyl-1H-indole-4-carboxaldehyde (1.9 g, 6.6 mmol) in nitromethane (12 ml) was added ammonium acetate (205 mg, 2.7 mmol) and the resulting mixture was refluxed for 2 hours. Water (50 ml) was added and products were extracted with ethyl acetate (2×100 ml). The combined organic phases were washed with brine (1×30 ml), dried (MgSO4) and concentrated. Flash chromatography (silica gel, dichloromethane-hexane, 75:25) of the residue gave 1.95 g (90%) of the title compound as a pale yellow solid; δH (250 MHz, CDCl3) 8.27 (1H, d, J=13.7 Hz), 8.14 (1H, d, J=8.2 Hz), 7.92-7.87 (2H, m), 7.75 (1H, d, J=3.7 Hz), 7.65 (1H, d, J=13.7 Hz), 7.62-7.34 (5H, m), 6.89 (1H, dd, J=3.7 and 0.9 Hz); m/z (CI) 299 (M++1).

reactant | 1- benzenesulphonyl-1H-indole-4-carboxaldehyde | 6.6 mmol, 1.9 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C15H11NO3S
reactant | ammonium acetate | 2.7 mmol, 205 mg | C(C)(=O)[O-].[NH4+]
reactant | Water | 50 ml | O | H2O
reactant | nitromethane | 12 ml | [N+](=O)([O-])C | CH3NO2
product | 1-(Benzenesulphonyl)-4-(2-nitrovinyl)-1H-indole | 1.95 g, 90% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)C=C[N+](=O)[O-] | C16H12N2O4S
